US04188491
Example 4 was repeated in which the DTDR was replaced by an equivalent amount of DODDR and the DIOP was replaced by an equivalent amount of (-)-2,3-bis(diphenylphosphinomethyl)-1,4-dioxaspiro[4,4]nonane, prepared by: (a) reacting L-(+)-diethyl tartrate with cyclopentanone in benzene in the presence of p-toluenesulphonic acid to give diethyl 1,4-dioxaspiro[4,4]nonan-2,3-dicarboxylate, b.p. 154°-158° C./6.0 mm., (b) reducing this with lithium aluminium hydride to give (-)-2,3-O-cyclopentylidene-L-threitol, b.p. 124°-130° C./0.2 mm., (c) converting this to (-)-1,4-ditosyl-2,3-O-cyclopentylidene-L-threitol m.p. 109°-115.5° C. by reaction with p-toluenesulphonyl chloride in pyridine and (d) treating with potassium and diphenylphosphine in tetrahydrofuran to give the desired compound m.p. 93°-95° C.

reactant | DIOP | CC(C)CCCCCOC(=O)C1=CC=CC=C1C(=O)OCCCCCC(C)C | C24H38O4
reactant | (-)-2,3-bis(diphenylphosphinomethyl)-1,4-dioxaspiro[4,4]nonane | C1(=CC=CC=C1)P(C1=CC=CC=C1)CC1OC2(OC1CP(C1=CC=CC=C1)C1=CC=CC=C1)CCCC2 | C33H34O2P2
reactant | cyclopentanone | C1(CCCC1)=O | C5H8O
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | diethyl 1,4-dioxaspiro[4,4]nonan-2,3-dicarboxylate | O1C(C(OC12CCCC2)C(=O)OCC)C(=O)OCC | C13H20O6
